US05126448
2-(4-Aminobutyroyl)-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester was obtained by the following method. To 5 ml of dimethylformamide were added 392 mg of 1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester and 441 mg of p-methoxybenzyloxycarbonylaminobutyric acid and after further adding thereto 269 mg of diethyl cyanophosphate and 251 of triethylamine, the mixture was stirred for 2 hours at 50° C. After finishing the reaction, 100 ml of ethyl acetate was added to the reaction mixture and the mixture was washed thrice with 100 ml of water. The ethyl acetate layer was concentrated under reduced pressure and subjected to silica gel column chromatography (development solvent: chloroform and methanol of 50:1) to provide 2-[4-(p-methoxybenzoyl)oxycarbonylaminobutyroyl]-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester. Then, 5 ml of a mixture of 1N hydrochloric acid and ethyl acetate was added to the product and the mixture was stirred for one hour at 50° C. and then cooled to provide 315 mg (yield of 54%) of 2-(4-aminobutyroyl)-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester.hydrochloride.

reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | 392 mg | C(C)OC(=O)C1CSC23C(=NCCC21)C=CC=C3 | C14H17NO2S
reactant | p-methoxybenzyloxycarbonylaminobutyric acid | 441 mg | COC1=CC=C(COC(=O)NC(C(=O)O)CC)C=C1 | C13H17NO5
reactant | diethyl cyanophosphate | 269 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[4-(p-methoxybenzoyl)oxycarbonylaminobutyroyl]-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(SC23C(=NCCC21)C=CC=C3)C(CCCNC(=O)OC(C3=CC=C(C=C3)OC)=O)=O | C27H30N2O7S
